US09315521B2
To a 0° C. mixture of lithium aluminum hydride (760 mg, 10.1 mmol) in anhydrous THF (60 mL) was slowly added a solution of ethyl 3-ethyl-5-fluoropyridine-4-carboxylate (2.00 g, 10.1 mmol) in anhydrous THF (25 mL). The reaction mixture was stirred at 0° C. for 2 hours. The reaction was quenched with 5N NaOH. Water (100 mL) and EtOAc (100 mL) were added. The mixture was stirred for 30 minutes. The solid material was removed by filtration. The organic layer was recovered. The aqueous layer was extracted with EtOAc (1×100 mL). The combined organic extracts were dried over MgSO4, filtered, evaporated and dried in vacuo, affording (3-ethyl-5-fluoropyridin-4-yl)methanol (1.5 g, 95% yield). The product was used without further purification.

reactant | lithium aluminum hydride | 10.1 mmol, 760 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-ethyl-5-fluoropyridine-4-carboxylate | 10.1 mmol, 2.00 g | C(C)C=1C=NC=C(C1C(=O)OCC)F | C10H12FNO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (3-ethyl-5-fluoropyridin-4-yl)methanol | 1.5 g, 95% yield | C(C)C=1C=NC=C(C1CO)F | C8H10FNO
